US07074819B2
To a solution of 9-(t-butyldimethylsilyloxy)nonyl iodide (1.05 g, 2.7 mmol) in pentane (10 ml) and diethylether (7 ml) was added at −78° C. t-BuLi (1.64M in pentane, 3.62 ml, 5.94 mmol), which was stirred for 10 minutes and then stirred for 1 h at room temperature. The mixture was cooled to −78° C. again, and a solution of 7-methoxy-3-methyl-3-(3-pyridyl)chroman-4-one (436 mg, 1.62 mmol) dissolved in THF (5 ml) was added thereto. The resulting solution was stirred at −78° C. for 30 minutes, and then stirred for 1 h at room temperature. The reaction solution was neutralized under ice-cooling using saturated aqueous NH4Cl solution, extracted with AcOEt, and washed with brine. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. The recidue was purified by chromatography on silica-gel with 70% AcOEt/hexane to give 642 mg (75%) of 4-[9-(t-butyldimethylsilyloxy)nonyl]-4-hydroxy-7-methoxy-3-methyl-3-(3-pyridyl)chroman.

reactant | 9-(t-butyldimethylsilyloxy)nonyl iodide | 2.7 mmol, 1.05 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCI | C15H33IOSi
reactant | t-BuLi | 5.94 mmol, 1.64M, 3.62 ml | [Li]C(C)(C)C
reactant | 7-methoxy-3-methyl-3-(3-pyridyl)chroman-4-one | 1.62 mmol, 436 mg | COC1=CC=C2C(C(COC2=C1)(C=1C=NC=CC1)C)=O | C16H15NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | pentane | 10 ml | CCCCC | C5H12
solvent | diethylether | 7 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[9-(t-butyldimethylsilyloxy)nonyl]-4-hydroxy-7-methoxy-3-methyl-3-(3-pyridyl)chroman | 642 mg, 75% | [Si](C)(C)(C(C)(C)C)OCCCCCCCCCC1(C(COC2=CC(=CC=C12)OC)(C=1C=NC=CC1)C)O | C31H49NO4Si
